US05382600
a) Methyl 3-(2-methoxy-4-methylphenyl)-3-phenylpropionate (VI)
7-Methyl-4-phenyl-3,4-dihydrocoumarin (78 g, 0.327 mol) in 150 ml methanol and 150 ml acetone containing methyl iodide (100 g, 0.7 mol) and K2CO3 (55 g, 0.4 mol) was refluxed for 24 h, filtered, and the solvent was evaporated. The residue was dissolved in ether, the solution was washed with water, dried and evaporated giving 86 g (92%) of a viscous oil.

reactant | 7-Methyl-4-phenyl-3,4-dihydrocoumarin | 0.327 mol, 78 g | CC1=CC=C2C(CC(OC2=C1)=O)C1=CC=CC=C1 | C16H14O2
reactant | methyl iodide | 0.7 mol, 100 g | CI | CH3I
reactant | K2CO3 | 0.4 mol, 55 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 150 ml | CO | CH4O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | Methyl 3-(2-methoxy-4-methylphenyl)-3-phenylpropionate | 86 g, 92% | COC1=C(C=CC(=C1)C)C(CC(=O)OC)C1=CC=CC=C1 | C18H20O3
